US07723538B2
4-[3-(Naphthalene-2-sulfonylamino)-benzoylamino]-benzoic acid, MS (ISP): m/e=445.1 (M−H), was prepared in analogy to example 1, steps A to D. Step C was performed using naphthalene-2-sulfonyl chloride and yielded 4-[3-(naphthalene-2-sulfonylamino)-benzoylamino]-benzoic acid ethyl ester, which was hydrolyzed in step D.

reactant | 4-[3-(Naphthalene-2-sulfonylamino)-benzoylamino]-benzoic acid | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)NC=1C=C(C(=O)NC2=CC=C(C(=O)O)C=C2)C=CC1 | C24H18N2O5S
reactant | naphthalene-2-sulfonyl chloride | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
product | 4-[3-(naphthalene-2-sulfonylamino)-benzoylamino]-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)NC(C1=CC(=CC=C1)NS(=O)(=O)C1=CC2=CC=CC=C2C=C1)=O)=O | C26H22N2O5S
